US07253192B2
2-{4-[5-(4-Chloro-3-fluoro-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid
In analogy to the procedure described in example 24E], 1-chloro-2-fluoro-4-iodobenzene and 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid (example 26B]), followed by purification described in example 26A] yielded the title compound as off-white powder, mp. 106-107° C., dec.

reactant | 1-chloro-2-fluoro-4-iodobenzene | ClC1=C(C=C(C=C1)I)F | C6H3ClFI
reactant | 2-methyl-2-(2-methyl-4-pent-4-ynyloxy-phenoxy)-propionic acid | CC(C(=O)O)(C)OC1=C(C=C(C=C1)OCCCC#C)C | C16H20O4
product | 2-{4-[5-(4-Chloro-3-fluoro-phenyl)-pent-4-ynyloxy]-2-methyl-phenoxy}-2-methyl-propionic acid | ClC1=C(C=C(C=C1)C#CCCCOC1=CC(=C(OC(C(=O)O)(C)C)C=C1)C)F | C22H22ClFO4
